US06339093B1
A mixture of 4-chloroquinoline (0.245 g, 1.5 mmol) and 5-Chloro-2,3-dihydro-1H-isoindole (0.23 g, 1.5 mmol) was heated at 140-150° C. for 4 hours under Argon then cooled to room temperature. The crude product was recrystallized with methanol to provide 4-(5-Chloro-1,3-dihydro-isoindol-2-yl)-quinoline hydrochloride (0.115 g, 24%) as white solid, m.p. 270-275° C. and MS: m/e=280 (M+).

reactant | 4-chloroquinoline | 1.5 mmol, 0.245 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 5-Chloro-2,3-dihydro-1H-isoindole | 1.5 mmol, 0.23 g | ClC=1C=C2CNCC2=CC1 | C8H8ClN
product | 4-(5-Chloro-1,3-dihydro-isoindol-2-yl)-quinoline hydrochloride | 0.115 g, 24% | Cl.ClC=1C=C2CN(CC2=CC1)C1=CC=NC2=CC=CC=C12 | InChI=1S/C17H13ClN2.ClH/c18-14-6-5-12-10-20(11-13(12)9-14)17-7-8-19-16-4-2-1-3-15(16)17;/h1-9H,10-11H2;1H
